US07375101B2
N-[7-Chloro-2,3-dihydro-1-methyl-2-oxo-5-(3-thienyl)-1H-1,4-benzodiazepin-3-yl]-N′-[4-(4-morpholinyl)-1-naphthalenyl]thiourea
This reaction was carried out in a multiwell plate. As illustrated in the scheme above, aA mixture of 7-chloro-1,3-dihydro-3-isothiocyanato-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one (156 μL of a 0.128 M solution in (CH2Cl)2, 0.020 mmol), 4-(4-morpholinyl)-1-naphthalenamine (44 μL of a 0.5 M solution in DMA, 0.022 mmol), and (CH2Cl)2 (300 μL) was agitated and heated at 70° C. for 22 h. The reaction was cooled and concentrated in vacuo, and the residue was redissolved in DMA (25 μL) and (CH2Cl)2 (275 μL). Polyamine resin HL (NovaBiochem) was added (20 mg of 4.53 mmol/g, 0.091 mmol), and the mixture was agitated at room temperature overnight. The resin was removed by filtration and washed with additional (CH2Cl)2 and MeOH. The filtrate was concentrated in vacuo to provide the title compound. MS (ESI) (M+H)+=576.

reactant | 7-chloro-1,3-dihydro-3-isothiocyanato-1-methyl-5-(3-thienyl)-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NC(C(N2C)=O)N=C=S)C2=CSC=C2)C1 | C15H10ClN3OS2
reactant | 4-(4-morpholinyl)-1-naphthalenamine | N1(CCOCC1)C1=CC=C(C2=CC=CC=C12)N | C14H16N2O
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | N-[7-Chloro-2,3-dihydro-1-methyl-2-oxo-5-(3-thienyl)-1H-1,4-benzodiazepin-3-yl]-N′-[4-(4-morpholinyl)-1-naphthalenyl]thiourea | ClC=1C=CC2=C(C(=NC(C(N2C)=O)NC(=S)NC2=CC=C(C3=CC=CC=C23)N2CCOCC2)C2=CSC=C2)C1 | C29H26ClN5O2S2
